.title Bazz Fuss

V1 1 0 DC 9
R1 1 2 100k
D1 2 3 D1N914 Is=100e-15 N=1 Vt=0.026 Cj0=2e-12 Vj=0.75 Mj=0.5
C2 2 4 0.1u
Q1 2 3 0 2N5088 Bf=400 Br=1.271 Is=5.911e-15 Vt=0.026
*Q1 2 3 0 BC549BP Bf=400 Br=35.5 Is=1.8e-14 Vt=0.026
*Q1 2 3 0 NPN Bf=200 Br=1 Is=1e-14 Vt=0.026
C1 5 3 4.7u
R2 4 0 100M


.input 5
.output 4
.ic C2 0.7
.ic C1 2